### PR TITLE
[Merged by Bors] - feat(Topology/Order/UpperLowerSetTopology): Introduce the Upper Set (or Alexandrov) topology and the Lower Set topology

### PR DESCRIPTION
**Pull request by mans0954**
Introduces the Upper Set topology, which is the canonical example of an Alexandrov topology and its dual, the Lower Set topology.

---

An Alexandrov topology is a topology where the intersection of any collection of open sets is open. The `UpperSetTopology` is an Alexandrov topology, and, given any Alexandrov topology, a `Preorder` may be defined on the underlying set such that the `UpperSetTopology` of the `Preorder` coincides with the original topology.

However, our motivation for introducing the `UpperSetTopology` is its use in the construction of the Scott Topology (#2508). Beyond demonstrating that the set of open sets is closed under arbitrary intersections, we have not sought to further develop the theory of Alexandrov topologies in this PR. However, we hope that by breaking the Upper Set topology out into a separate file / PR, we may facilitate anyone who does wish to develop mathlib4 in that direction.

See also the discussion about naming [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Possible.20future.20name.20collision)

For completeness we also introduce the dual Lower Set topology.

- [x] depends on: #5873
- [x] depends on: #6157

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ADedecker** [comment]
Could you add comments (I'd say both in the module docstrings and in the docs of the definitions) warning that this is not the dual of the `LowerTopology`? Maybe even add an example in the module docstring.

File: Mathlib/Topology/Order/UpperSetTopology.lean [hunk 1]
```diff
@@ -0,0 +1,271 @@
...
+  ‹Inhabited α›
+
+variable [Preorder α]
+
+instance : Preorder (WithUpperSetTopology α) :=
+  ‹Preorder α›
+
+instance : TopologicalSpace (WithUpperSetTopology α) := upperSetTopology' α
+
+theorem ofUpperSet_rel_iff {a b : WithUpperSetTopology α} : ofUpperSet a ≤ ofUpperSet b ↔ a ≤ b :=
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperSetTopology.lean:123]:
```suggestion
theorem ofUpperSet_le_iff {a b : WithUpperSetTopology α} : ofUpperSet a ≤ ofUpperSet b ↔ a ≤ b :=
```

File: Mathlib/Topology/Order/UpperSetTopology.lean [hunk 2]
```diff
@@ -0,0 +1,271 @@
...
+  Iff.rfl
+
+theorem toUpperSet_rel_iff {a b : α} : toUpperSet a ≤ toUpperSet b ↔ a ≤ b :=
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperSetTopology.lean:126]:
```suggestion
theorem toUpperSet_le_iff {a b : α} : toUpperSet a ≤ toUpperSet b ↔ a ≤ b :=
```

File: Mathlib/Topology/Order/UpperSetTopology.lean [hunk 3]
```diff
@@ -0,0 +1,271 @@
...
+/--
+`ofUpper` as an `OrderIso`
+-/
+def ofUpperSetOrderIso : OrderIso (WithUpperSetTopology α) α := {
+  toFun := ofUpperSet,
+  invFun := toUpperSet,
+  left_inv := toUpperSet_ofUpperSet,
+  right_inv := ofUpperSet_toUpperSet,
+  map_rel_iff' := ofUpperSet_rel_iff
+}
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperSetTopology.lean:138]:
```suggestion
/-- `ofUpper` as an `OrderIso` -/
def ofUpperSetOrderIso : OrderIso (WithUpperSetTopology α) α :=
{ toFun := ofUpperSet,
  invFun := toUpperSet,
  left_inv := toUpperSet_ofUpperSet,
  right_inv := ofUpperSet_toUpperSet,
  map_rel_iff' := ofUpperSet_le_iff }
```

File: Mathlib/Topology/Order/UpperSetTopology.lean [hunk 4]
```diff
@@ -0,0 +1,271 @@
...
+/--
+`toUpper` as an `OrderIso`
+-/
+def toUpperSetOrderIso : OrderIso α (WithUpperSetTopology α) := {
+  toFun := toUpperSet,
+  invFun := ofUpperSet,
+  left_inv := ofUpperSet_toUpperSet,
+  right_inv := toUpperSet_ofUpperSet,
+  map_rel_iff' := toUpperSet_rel_iff
+}
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperSetTopology.lean:149]:
```suggestion
/-- `toUpper` as an `OrderIso` -/
def toUpperSetOrderIso : OrderIso α (WithUpperSetTopology α) := 
{ toFun := toUpperSet,
  invFun := ofUpperSet,
  left_inv := ofUpperSet_toUpperSet,
  right_inv := toUpperSet_ofUpperSet,
  map_rel_iff' := toUpperSet_le_iff }
```

**Comment by mans0954** [comment]
> Could you add comments (I'd say both in the module docstrings and in the docs of the definitions) warning that this is not the dual of the `LowerTopology`? Maybe even add an example in the module docstring.

I've added the warning and also `UpperSetTopology.Monotone_to_LowerTopology_Dual_Continuous` which explains the relationship between these topologies.

File: Mathlib/Topology/Order/UpperSetTopology.lean [hunk 5]
```diff
@@ -0,0 +1,283 @@
...
+  rfl
+
+end Preorder
+
+section maps
+
+variable [Preorder α] [Preorder β]
+
+lemma upperSetTopology_coinduced {t₁ : TopologicalSpace α} [UpperSetTopology α]
+  (hf : Monotone f) : coinduced f t₁ ≤ upperSetTopology' β := by
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperSetTopology.lean:239]:
```suggestion
    (hf : Monotone f) : coinduced f t₁ ≤ upperSetTopology' β := by
```
The new convention is that everything before the `:=` has to be indented twice. Could you also check that in the rest of the file?

**Comment by ADedecker** [comment]
I think I know your answer, but why not also introduce `LowerSetTopology`? In particular I feel like having the full collection would make it easier to emphasize that `LowerTopology` is different from `LowerSetTopoloy`, without resorting to dualizing the order.
I don't have a use case in mind, but I know that I have a use case for the dual version of `LowerTopology` (which we still don't have) so it wouldn't surprise me if such a case appears in the future.

File: Mathlib/Topology/Order/UpperSetTopology.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/Topology/Order/UpperSetTopology.lean]: Presumably this only applies when the statement of the result runs over multiple lines? e.g.
```
lemma Monotone_to_LowerTopology_Dual_Continuous [TopologicalSpace α]
  [UpperSetTopology α] [TopologicalSpace β] [LowerTopology β] {f : α → βᵒᵈ} (hf : Monotone f) :
    Continuous f:= by
  rw [continuous_def]
```

File: Mathlib/Topology/Order/UpperSetTopology.lean [hunk 6]
```diff
@@ -0,0 +1,283 @@
...
+
+section preorder
+
+variable [Preorder α]
+
+/--
+The set of upper sets forms a topology. In general the upper set topology does not coincide with the
+dual of the lower topology.
+-/
+def upperSetTopology' : TopologicalSpace α :=
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperSetTopology.lean:65]: This may bite us back at some point, but what do you think of just calling that `upperSetTopology` (with a small `u`) and using the case variation to distinguish it from `UpperSetTopology`. If you think that will be annoying I have no problem with keeping the current name.

File: Mathlib/Topology/Order/UpperSetTopology.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/Topology/Order/UpperSetTopology.lean]: No from what I understand the hypotheses and the statement have the same level of indentation, you only go back one tab when getting into the proof. So that gives:
```lean
lemma Monotone_to_LowerTopology_Dual_Continuous [TopologicalSpace α]
    [UpperSetTopology α] [TopologicalSpace β] [LowerTopology β] {f : α → βᵒᵈ} (hf : Monotone f) :
    Continuous f := by
  rw [continuous_def]
```

File: Mathlib/Topology/Order/UpperSetTopology.lean [hunk 7]
```diff
@@ -0,0 +1,283 @@
...
+  rfl
+
+end Preorder
+
+section maps
+
+variable [Preorder α] [Preorder β]
+
+lemma upperSetTopology_coinduced {t₁ : TopologicalSpace α} [UpperSetTopology α]
+    (hf : Monotone f) : coinduced f t₁ ≤ upperSetTopology' β := by
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperSetTopology.lean:238]: Is there a particular reason you split out this result from the TFAE? Ease of use for defining the Scott topology?

File: Mathlib/Topology/Order/UpperSetTopology.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/Topology/Order/UpperSetTopology.lean]: Hopefully I've got this correct now?

Comment (ADedecker) [reply Mathlib/Topology/Order/UpperSetTopology.lean]: Yes that's perfect, thanks!

File: Mathlib/Topology/Order/UpperSetTopology.lean (hunk 7 above)
Comment (mans0954) [reply Mathlib/Topology/Order/UpperSetTopology.lean:238]: I think I used it in that form here: https://github.com/leanprover-community/mathlib4/pull/2508/files#diff-983e16dd03108ad09234625f776ad94cfb58b1f6ee4762bf7519306fd90a2b46R220

To be honest, I'm finding multiple topologies on the same space in Lean very hard to wrap my head around. Given that it's a very common situation in mathematics (think about all the topologies on a W*-algebra - e.g. Takesaki, Theory of Operator Algebra I Chapter II Theorem 2.6) I was hoping there might be more by the way of an established convention about how to set these things out. I asked [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Multiple.20topologies.3F) but found it hard to interpret the answers.

File: Mathlib/Topology/Order/UpperSetTopology.lean (hunk 6 above)
Comment (mans0954) [reply Mathlib/Topology/Order/UpperSetTopology.lean:65]: I find having `upperSetTopology'`, `UpperSetTopology` and `WithUpperSetTopology` a bit confusing. Originally I tried not naming `upperSetTopology'` at all, but found I seemed to keep needing to refer to it.

File: Mathlib/Topology/Order/UpperSetTopology.lean (hunk 7 above)
Comment (ADedecker) [reply Mathlib/Topology/Order/UpperSetTopology.lean:238]: I didn't participate in this thread at the time because I was busy with other things, but it's true that the discussion wasn't super clear. I have quite a lot of experience working with multiple topologies (although not in the context of order-related topologies). I'll try to write a summary of the way I see things tomorrow and post it on Zulip. 

I also have ideas about this particular situation, but I need to test them so I'll comment tomorrow.

**Comment by ADedecker** [comment]
> > I think I know your answer, but why not also introduce `LowerSetTopology`? In particular I feel like having the full collection would make it easier to emphasize that `LowerTopology` is different from `LowerSetTopoloy`, without resorting to dualizing the order. I don't have a use case in mind, but I know that I have a use case for the dual version of `LowerTopology` (which we still don't have) so it wouldn't surprise me if such a case appears in the future.
> 
> I got my fingers burnt early on introducing something just because we could which then caused trouble later on, so I've been a bit cautious since. If you have a use for `UpperTopology` (the dual version of `LowerTopology`) then maybe we should just go ahead and add these things in.
> 
> Would I just create a file called `LowerSetTopology.lean`, define
> 
> ```
> def lowerSetTopology : TopologicalSpace α :=
> { IsOpen := IsLowerSet,
> ...
> ```
> 
> and restate/prove all the results, or can I infer them all somehow using `OrderDual`?

I'd say you can have them in the same file (`UpperLowerSetTopology.lean`). You can either separate them into two sections or mix them, it doesn't really matter (except maybe for managing namespaces). You'll have to restate all the results, but the proofs should hopefully be one line applications of the upper version

**Comment by mans0954** [comment]
> I'd say you can have them in the same file (`UpperLowerSetTopology.lean`). You can either separate them into two sections or mix them, it doesn't really matter (except maybe for managing namespaces). You'll have to restate all the results, but the proofs should hopefully be one line applications of the upper version

I've made a start on adding `UpperTopology`: https://github.com/leanprover-community/mathlib4/tree/mans0954/UpperTopology

I've added `def toOrderDualHomeomorph [Preorder α] : WithLowerTopology α ≃ₜ WithUpperTopology αᵒᵈ` - is that the right way to express this?

File: Mathlib/Topology/Order/UpperSetTopology.lean (hunk 7 above)
Comment (ADedecker) [reply Mathlib/Topology/Order/UpperSetTopology.lean:238]: I've added some explanations on Zulip, I hope that'll help to clarify things!

File: Mathlib/Topology/Order/UpperSetTopology.lean (hunk 6 above)
Comment (ADedecker) [reply Mathlib/Topology/Order/UpperSetTopology.lean:65]: I think it makes sense to have all three (see my comments on Zulip), as long as you are a bit careful about how you build up the API. The current naming is fine, so do whatever you prefer.

File: Mathlib/Topology/Order/UpperSetTopology.lean [hunk 8]
```diff
@@ -0,0 +1,283 @@
...
+    apply (Continuous.closure_preimage_subset hf {f b})
+    rw [← mem_Iic, ← closure_singleton] at hab
+    apply mem_of_mem_of_subset hab
+    apply closure_mono
+    rw [singleton_subset_iff, mem_preimage, mem_singleton_iff]
+  tfae_have 2 ↔ 4
+  · exact continuous_iff_le_induced
+  tfae_have 2 ↔ 3
+  · exact continuous_iff_coinduced_le
+  tfae_finish
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperSetTopology.lean:268]: I would suggest doing the following:
```suggestion
protected lemma monotone_iff_continuous {t₁ : TopologicalSpace α} [UpperSetTopology α]
    {t₂ : TopologicalSpace β} [UpperSetTopology β] {f : α → β} :
    Monotone f ↔ Continuous f := by
  constructor
  · intro hf
    simp_rw [continuous_def, IsOpen_iff_IsUpperSet]
    exact fun _ hs ↦ IsUpperSet.preimage hs hf
  · intro hf a b hab
    rw [← mem_Iic, ← closure_singleton, ← mem_preimage]
    apply (Continuous.closure_preimage_subset hf {f b})
    rw [← mem_Iic, ← closure_singleton] at hab
    apply mem_of_mem_of_subset hab
    apply closure_mono
    rw [singleton_subset_iff, mem_preimage, mem_singleton_iff]
```
I don't think the `coinduced` and `induced` statements are worth putting in the TFAE because they are always one rewrite away anyways, and I feel like `rw [UpperSetTopology.monotone_iff_continuous, continuous_iff_coinduced_le]` is more readable than `rw [(UpperSetTopology.monotone_tfae).out 0 2]`.

Then you can also remove `upperSetTopology_coinduced` imo, first because it can easily be proven;
```lean
lemma upperSetTopology_coinduced {t₁ : TopologicalSpace α} [UpperSetTopology α]
    (hf : Monotone f) : coinduced f t₁ ≤ upperSetTopology' β := by
  rwa [← continuous_iff_coinduced_le, ← UpperSetTopology.monotone_iff_continuous]
```
and also because I think you can just work around it in #2508

**Comment by ADedecker** [comment]
> I've made a start on adding `UpperTopology`: [`mans0954`/UpperTopology](https://github.com/leanprover-community/mathlib4/tree/mans0954/UpperTopology?rgh-link-date=2023-07-12T07%3A52%3A57Z)
> 
> I've added `def toOrderDualHomeomorph [Preorder α] : WithLowerTopology α ≃ₜ WithUpperTopology αᵒᵈ` - is that the right way to express this?

Could you please open a PR for that? It'll be easier to make suggestions. Also if you want to dualize this particular file in a separate PR that would work for me, do as you wish.

**Comment by mans0954** [comment]
@ADedecker I've added the statements for the lower set topology to this file/PR.

Is the next step to prove:
```
instance  [Preorder α] [TopologicalSpace α] [LowerSetTopology α] : UpperSetTopology (αᵒᵈ) := sorry
```
so that
```
theorem LowerSetTopology.IsOpen_sInter {S : Set (Set α)} (hf : ∀ s ∈ S, IsOpen s) : IsOpen (⋂₀ S) := by
  apply @UpperSetTopology.IsOpen_sInter αᵒᵈ _ _ _ _ (fun s a ↦ hf s a)
```
etc?

**Comment by ADedecker** [comment]
Yes, I think this is the perfect approach! In particular note that you don't actually need an homeomorphism with the order dual, this instance does all the work.

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#5873
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by ADedecker** [comment]
Could you merge master?

**Comment by mans0954** [comment]
> Could you merge master?

Done.

File: Mathlib/Topology/Order/UpperLowerSetTopology.lean [hunk 9]
```diff
@@ -0,0 +1,475 @@
...
+
+lemma isClosed_iff_isUpper {s : Set α} : IsClosed s ↔ (IsUpperSet s) := by
+  rw [← isOpen_compl_iff, IsOpen_iff_IsLowerSet, isUpperSet_compl.symm, compl_compl]
+
+lemma isClosed_isUpper {s : Set α} : IsClosed s → IsUpperSet s := fun h =>
+  (isClosed_iff_isUpper.mp h)
+
+lemma closure_eq_upperClosure {s : Set α} : closure s = upperClosure s :=
+  UpperSetTopology.closure_eq_lowerClosure (α := αᵒᵈ)
+/--
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperLowerSetTopology.lean:416]:
```suggestion

/--
```

File: Mathlib/Topology/Order/UpperLowerSetTopology.lean [hunk 10]
```diff
@@ -0,0 +1,475 @@
...
+  · intro hf
+    simp_rw [continuous_def, IsOpen_iff_IsLowerSet]
+    exact fun _ hs ↦ IsLowerSet.preimage hs hf
+  · intro hf a b hab
+    rw [← mem_Ici, ← closure_singleton, ← mem_preimage]
+    apply Continuous.closure_preimage_subset hf
+    rw [← mem_Ici, ← closure_singleton] at hab
+    apply mem_of_mem_of_subset hab
+    apply closure_mono
+    rw [singleton_subset_iff, mem_preimage, mem_singleton_iff]
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperLowerSetTopology.lean:445]: Did you try getting this proof by duality? For the shorter one above there's no point since it's really short already, but for this one and the ones below it would be really nice.

Comment (mans0954) [reply Mathlib/Topology/Order/UpperLowerSetTopology.lean]: I've done this now. Needed an extra lemma: #6157

File: Mathlib/Topology/Order/UpperLowerSetTopology.lean [hunk 11]
```diff
@@ -0,0 +1,467 @@
...
+  intros s hs
+  rw [← IsOpen_iff_IsUpperSet]
+  exact hf _ hs
+
+-- Alexandrov property, index formulation
+theorem isOpen_iInter {f : ι → Set α} (hf : ∀ i, IsOpen (f i)) : IsOpen (⋂ i, f i) := by
+  rw [IsOpen_iff_IsUpperSet]
+  apply isUpperSet_iInter
+  intros i
+  rw [← IsOpen_iff_IsUpperSet]
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperLowerSetTopology.lean:305]:
```suggestion
  simp_rw [IsOpen_iff_IsUpperSet] at *
  apply isUpperSet_iInter
  intros i
```

File: Mathlib/Topology/Order/UpperLowerSetTopology.lean [hunk 12]
```diff
@@ -0,0 +1,467 @@
...
+    [TopologicalSpace β] [UpperSetTopology β] {f : α → β} :
+    Monotone f ↔ Continuous f := by
+  constructor
+  · intro hf
+    simp_rw [continuous_def, IsOpen_iff_IsUpperSet]
+    exact fun _ hs ↦ IsUpperSet.preimage hs hf
+  · intro hf a b hab
+    rw [← mem_Iic, ← closure_singleton, ← mem_preimage]
+    apply (Continuous.closure_preimage_subset hf {f b})
+    rw [← mem_Iic, ← closure_singleton] at hab
```
Comment (ADedecker) [inline Mathlib/Topology/Order/UpperLowerSetTopology.lean:350]: Untested
```suggestion
    rw [← mem_Iic, ← closure_singleton, ← mem_preimage] at hab ⊢
    apply (Continuous.closure_preimage_subset hf {f b})
```

**Review by ADedecker — COMMENTED** [review]
Final set of nitpicks.

Thanks!
bors d+

File: Mathlib/Topology/Order/UpperLowerSetTopology.lean (hunk 12 above)
Comment (mans0954) [reply Mathlib/Topology/Order/UpperLowerSetTopology.lean:336]: Not quite, but this works:
```
    rw [← mem_Iic, ← closure_singleton] at hab ⊢
    apply (Continuous.closure_preimage_subset hf {f b})
```
